US04515793
1-(4-Chlorophenyl)-4-[4-[3-chloro-4-(hydroxymethyl)phenyl]-1-piperazinyl]-1-butanone (Cpd. 59)
A solution of 4,4'-dichlorobutyrophenone (4.5 g, 20.7 mmole) in 25 ml of acetone was added to a warm suspension of 2-chloro-4-(1-piperazinyl)benzenemethanol (4.7 g, 20.7 mole) in 50 ml acetone and 2.5 ml of triethylamine. The reaction mixture was refluxed for four days, cooled at -10° for three hours, and then filtered. The product was washed with a little acetone, triturated on the filter with water (four times, 50 ml), and air dried. Recrystallization from acetonitrile (65 ml) gave 3.0 g (35%), mp 137°-139°.

reactant | 4,4'-dichlorobutyrophenone | 20.7 mmole, 4.5 g | ClCCCC(=O)C1=CC=C(C=C1)Cl | C10H10Cl2O
reactant | 2-chloro-4-(1-piperazinyl)benzenemethanol | 20.7 mole, 4.7 g | ClC1=C(C=CC(=C1)N1CCNCC1)CO | C11H15ClN2O
solvent | acetone | 25 ml | CC(=O)C | C3H6O
solvent | acetone | 50 ml | CC(=O)C | C3H6O
solvent | triethylamine | 2.5 ml | C(C)N(CC)CC | C6H15N
product | 1-(4-Chlorophenyl)-4-[4-[3-chloro-4-(hydroxymethyl)phenyl]-1-piperazinyl]-1-butanone | ClC1=CC=C(C=C1)C(CCCN1CCN(CC1)C1=CC(=C(C=C1)CO)Cl)=O | C21H24Cl2N2O2
